US06800629B2
In 2.0 mL of N,N-dimethylformamide was dissolved 0.20 g of 3,6-difluoro-2-pyrazinecarbonitrile. At 5° C., 0.11 g of sodium azide was added and stirred at the same temperature as above for 10 minutes. The reaction mixture was added to a mixture of 20 mL of ether and 20 mL of water, and the organic layer was separated. The organic layer thus obtained was washed successively with 20 mL of water and 20 mL of saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. Thus, 0.25 g of 3-azido-6-fluoro-2-pyrazinecarbonitrile was obtained as a yellow-colored oily product.

reactant | 3,6-difluoro-2-pyrazinecarbonitrile | 0.20 g | FC=1C(=NC(=CN1)F)C#N | C5HF2N3
reactant | sodium azide | 0.11 g | [N-]=[N+]=[N-].[Na+]
reactant | ether | 20 mL | CCOCC | C4H10O
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-azido-6-fluoro-2-pyrazinecarbonitrile | 0.25 g | N(=[N+]=[N-])C=1C(=NC(=CN1)F)C#N | C5HFN6
